US06455520B1
N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2,3-dihydrobenzofuran-5-carboxamide
2,3-Dihydrobenzofuran-2-carboxylic acid (0.109 g) was added to a stirred mixture of N-(5-amino-2-methylphenyl)-3-(4-methylpiperazin-1-ylmethyl)benzamide (0.15 g), diisopropyethyllamine (0.232 ml), 2-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate(V) (0.253 g) and DMF (10 ml) and the mixture was stirred at ambient temperature for 66 hours. The mixture was partitioned between methylene chloride and water. The organic phase was washed with a saturated aqueous solution of sodium bicarbonate and evaporated. The residue was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Hengoed, Mid-Glamorgan, UK) using a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. The product so obtained was dissolved in acetone and precipitated by the addition of isohexane. There was thus obtained the title compound (0.089 g); NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 2.2 (s, 3H), 2.30-2.45 (m, 8H), 3.25 (t, 2H), 3.55 (s, 2H), 4.6 (t, 2H), 6.85-6.9 (m, 1H), 7.18-7.22 (m, 1H), 7.4-7.66 (m, 3H), 7.75-7.9 (m, 5H), 9.85 (s, 1H), 10.0 (s, 1H); Mass Spectrum: M+H+ 485.

reactant | 2,3-Dihydrobenzofuran-2-carboxylic acid | 0.109 g | O1C(CC2=C1C=CC=C2)C(=O)O | C9H8O3
reactant | N-(5-amino-2-methylphenyl)-3-(4-methylpiperazin-1-ylmethyl)benzamide | 0.15 g | NC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)CN1CCN(CC1)C)=O)C | C20H26N4O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
product | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2,3-dihydrobenzofuran-5-carboxamide | 0.089 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=CC3=C(CCO3)C2)C=CC1 | C29H32N4O3
